US04059434
c. Preparation of 2-(4-Chloro-2-fluorophenyl)-1,2,4,5,6,7-hexahydro-3H-indazol-3-one
By substituting 4-chlorophenylhydrazine hydrochloride in the above procedure for 4-chloro-2fluorophenylhydrazine hydrochloride, 2-(4-chlorophenyl)-1,2,4,5,6,7-hexahydro-3H-indazol-3-one was prepared, m.p. 183.5°-185° (Lit 186°-187°, Chem. Abs., 67, 11452h).

reactant | 4-chlorophenylhydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
reactant | 4-chloro-2fluorophenylhydrazine hydrochloride | Cl.ClC1=CC(=C(C=C1)NN)F
reactant | 2-(4-chlorophenyl)-1,2,4,5,6,7-hexahydro-3H-indazol-3-one | ClC1=CC=C(C=C1)N1NC=2CCCCC2C1=O | C13H13ClN2O
product | 2-(4-Chloro-2-fluorophenyl)-1,2,4,5,6,7-hexahydro-3H-indazol-3-one | ClC1=CC(=C(C=C1)N1NC=2CCCCC2C1=O)F | C13H12ClFN2O
